US03987160
4-Amino-2-(3,5-dichloro-2-methoxyphenyl)-5-nitrosopyrimid-6-one (6.8 g.) was suspended in a solution of triethylamine (10 ml.) in water (100 ml.). Sodium dithionite (7.5 g.) was added, in portions, to the mixture with stirring, and stirring was continued for a further 30 minutes. A further quantity (2 g.) of sodium dithionite was added, and stirring was continued for a further 30 minutes, after which the mixture was allowed to stand overnight. The solid was filtered off and washed with water to give crude 4,5-diamino-2-(3,5-dichloro-2-methoxyphenyl)pyrimid-6-one (6 g.), m.p. 145°-150° C. (with decomposition), pure enough for use in the next stage of the preparation.

reactant | 4-Amino-2-(3,5-dichloro-2-methoxyphenyl)-5-nitrosopyrimid-6-one | 6.8 g | NC=1N=C(NC(C1N=O)=O)C1=C(C(=CC(=C1)Cl)Cl)OC | C11H8Cl2N4O3
reactant | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
reactant | Sodium dithionite | 7.5 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | sodium dithionite | 2 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | water | 100 ml | O | H2O
product | 4,5-diamino-2-(3,5-dichloro-2-methoxyphenyl)pyrimid-6-one | 6 g | NC=1N=C(NC(C1N)=O)C1=C(C(=CC(=C1)Cl)Cl)OC | C11H10Cl2N4O2
